US07691896B2
tert-Butyldimethylsilyltrifluoromethanesulfonate (9.99 ml, 11.49 g, 43.5 mmol, 3.0 equiv) was added to a stirring solution of 3-methyl-5-oxo-2,5-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (3.7 g, 14.5 mmol, 1.0 equiv) and 2,6-lutidine (5.07 ml, 4.66 g, 43.5 mmol, 3.0 equiv) in dichloromethane (100 ml) at 23° C. The mixture was stirred at 23° C. for 15 h, then washed with pH=7 buffer solution (30 ml). The aqueous layer was extracted with two 40 ml portions of dichloromethane. The combined organic layers were dried over sodium sulfate. The solids were filtered and the filtrate was concentrated. The residue was purified by flash column chromatography (3% ethyl acetate-hexanes initially, grading to 6% ethyl acetate-hexanes) to afford 5-(tert-Butyl-dimethyl-silanyloxy)-3-methyl-1H-pyrrole-2-carboxylic acid methyl ester (3.46 g, 89%) as a yellow oil.

reactant | tert-Butyldimethylsilyltrifluoromethanesulfonate | 43.5 mmol, 9.99 ml, 11.49 g, 3.0 equiv | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | 3-methyl-5-oxo-2,5-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 14.5 mmol, 3.7 g, 1.0 equiv | COC(=O)C1N(C(C=C1C)=O)C(=O)OC(C)(C)C | C12H17NO5
reactant | 2,6-lutidine | 43.5 mmol, 5.07 ml, 4.66 g, 3.0 equiv | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-(tert-Butyl-dimethyl-silanyloxy)-3-methyl-1H-pyrrole-2-carboxylic acid methyl ester | 3.46 g, 89% | COC(=O)C=1NC(=CC1C)O[Si](C)(C)C(C)(C)C | C13H23NO3Si
